Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headache, anemia

 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
PCP: Dr. ___ notes/labs/studies reviewed by me
Amharic interpreter used for interview

___ with history of heart murmur (normal ECHO ___ presents 
with abdominal pain, melena and headache. He developed 
generalized mid and lower abdominal pain on ___ without N/V 
or diarrhea.  On ___ he noted black stool for several 
movements.  There was no fever or diarrhea.  At church he 
developed occipital headache, non-radiating, without associated 
weakness or syncope. He took 400mg Advil daily ___, and 
___ and stool turned reddish. He denies fever, neck stiffness, 
chills, rigors.  He endorses intermittent abdominal pain, black 
stool, dizziness when on feet, chest palpitation and exertional 
dyspnea.

He returned from ___ ___. Was there in ___, 
___, for most of his 3 months stay there, except for 7 
days in rural area mid-way through his trip. No animal 
exposures.  No other illness during his stay. No travel to any 
other ___.

Has been fasting during 50+ days of Lent, but eats at night.

In ED 99.3, 88, 135/87, 16, 100%RA (pain ___
He was given IVNS. A non-con head CT was without bleed, Hgb ___, 
HCT 21.6, WBC 14.6, lactate was 2.4, lipase 93. CXR was 
unremarkable. Tylenol was given at 11AM.  He has 2 x IV. He was 
not given PPI.

Other 12 point ROS (-) except for above
 
Past Medical History:
- Heart murmur (ECHO w/o valve abnormality ___
- Herpes Zoster ___
- Gout ___ (w/ toe joint erosion)
- Eczyma (ankles) ___
- Fatigue ___
- Canaliculitis ___

___: Prior negative HIV, Hep C. (+) previous exposure to and 
clearance of Hep B. Positive titers for MMR,
 
Social History:
___
Family History:
No GI malignancy, no CAD
 
Physical Exam:
Alert, oriented
98.4, 133/89, 72, 18, 100 RA 
HEENT - (+) conj pallor, OP clear, neck supple no ___
COR - RRR, nl S1, S2. ___ systolic flow murmur
LUNGS - CTA bilat
ABD - soft, NT/ND no HSM masses
EXT - no C/C/E
SKIN - (+) palmar pallor, no rashes
JOINT - no effusions
MSK - tender bilat upper trapezius
NEURO - fluent speech, nl cognition, ___ strength throughout in 
all groups, no sensory deficits, gait normal, CN2-12 intact

 
Pertinent Results:
___ 10:00AM   WBC-14.6* RBC-2.39* HGB-7.1* HCT-21.6* MCV-90 
MCH-29.7 MCHC-32.9 RDW-15.3 ___ 10:00AM   
NEUTS-60 BANDS-3 ___ MONOS-3* EOS-3 BASOS-2* ATYPS-1* 
METAS-3* MYELOS-1* NUC RBCS-3* AbsNeut-9.20* AbsLymp-3.65 
AbsMono-0.44 AbsEos-0.44 AbsBaso-0.29*
___ 10:00AM   PLT SMR-NORMAL PLT COUNT-356
___ 10:00AM   ___ PTT-28.1 ___

___ 10:00AM   GLUCOSE-115* UREA N-10 CREAT-0.8 SODIUM-140 
POTASSIUM-3.2* CHLORIDE-104 TOTAL CO2-24 ANION GAP-15
___ 10:00AM   ALT(SGPT)-25 AST(SGOT)-23 ALK PHOS-52 TOT 
BILI-0.3
___ 10:00AM   cTropnT-<0.01
___ 10:00AM   ALBUMIN-3.9
___ 10:05AM   LACTATE-2.4*

___ 06:30   
CBC 
12.3  9.6  319 
     28.4  
 
___ 00:25   

CBC 
15.1  9.6 ___  324 
     29.0 ___  
 
___ 16:45   
CBC 
13.8  6.8  321 
     20.8 

H.pylori AB - PENDING
 
___. No acute hemorrhage.  No evidence for
parenchymal edema. 2. The right cerebellar tonsil extends 4.5 mm
below the foramen magnum, without clear morphologic abnormality. 

Mild crowding in the foramen magnum on 
the right without complete CSF effacement.  Given the unilateral
nature, this more likely represents tonsillar ectopia rather 
than
Chiari 1 malformation. 3. Possible chronic left nasal bone
fracture.  Nasal bones are not fully imaged.  No acute fracture
is otherwise seen. RECOMMENDATION(S):  Brain MRI with and 
without
contrast to better assess for a Chiari malformation or other
source of headache.  NOTIFICATION:  The findings were discussed
with ___, M.D. by ___, M.D. on the 
telephone
on ___ at 6:53 pm, 5 minutes after discovery of the
findings.

___ CHEST XRAY: 1. No evidence of pneumonia. 2. Calcified 
granuloma, right upper lobe.  No evidence of active infection. 

___ 4:45 pm SEROLOGY/BLOOD
   **FINAL REPORT ___
   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      POSITIVE BY EIA. 
           (Reference Range-Negative). 

___ MRI HEAD
1. Unchanged mild downward displacement of the right cerebellar 
tonsil by 
approximately 7 mm, with mild crowding of the foramen magnum on 
the right 
without compression.  No evidence of syrinx or cortical 
malformation.  As 
previously described, given the unilateral nature of this 
finding, more likely represent tonsillar ectopia rather than 
Chiari type 1 malformation. 
2. There is no evidence of acute or subacute intracranial 
process, there is no evidence of abnormal enhancement. 

 
Brief Hospital Course:
___ with prior heart murmur w/o heart valve abnormalities, prior 
zoster, gout (L toe), eczyma, fatigue, admitted with 8 days abd 
pain, melena 5 days ago, then headache for which took daily 
NSAID x 3 days with ongoing GI bleeding, and symptomatic anemia. 
There is no fever, though mild leukocytosis is present without L 
shift. Lipase is non-specifically elevated. EGD ___ showed 
duodenal ulcers

# Duodenal ulcer (multiple) with Acute blood loss anemia
# H. Pylori Ab (+)
# Headache w/ concern for Budd-Chiari malformation (asymmetric)
# Abdominal pain
# Chronic gout

Course:
- transfused 2U PRBC with stable CBC thereafter
- IV Pantoprazole BID moved to oral, and should continue x 12 
weeks
- H. pylori Ab returned positive, and he was discharged to start 
Amoxicillin 1gm BID and Clarithromycin 500mg BID x 14 days.  He 
will need Stool Ag testing to assess for cure after 12 weeks
- patient instructed to avoid all NSAID/Aspirin products, and to 
use acetaminophen for HA (up to 4 gm/day)
- CT head with concern for Budd-Chiari malformation. MRI head 
was pursued and showed the same. He was seen by neurosurgery who 
recommends outpatient ___ with ___. ___ 
by MRI CSF study. This was arranged.
- recommend restarting allopurinol post discharge with PCP ___ 
(apptmt was arranged)
- outpatient latent TB evaluation in light of ___ origin 
and CXR granuloma

 
Medications on Admission:
None  (stopped allopurinol > ___ year ago)
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain 
no more than 4 grams daily  
2.  Amoxicillin 1000 mg PO Q12H Duration: 14 Days 
RX *amoxicillin 500 mg 2 capsule(s) by mouth twice a day Disp 
#*56 Capsule Refills:*0 
3.  Clarithromycin 500 mg PO Q12H Duration: 14 Days 
RX *clarithromycin [Biaxin] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*28 Tablet Refills:*0 
4.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*90 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Duodenal ulcer w/ acute hemorrhage
Headache - assymetric poster cerebellar tonsillar anatomy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with GI bleeding, symptomatic anemia in the 
setting of recent NSAID use for headache. You had endoscopy 
which showed non-bleeding ulcers, and you responded well to 2 
units of blood transfusion.  You were found to have H. pylori 
infection, which can be associated with duodenal ulcers. You 
were given prescripations for, and should complete, treatment. 
You will need to continue the antacid therapy for 12 weeks and 
then have a stool test to prove that the H. pylori infection has 
been adequately treated.  A CT head showed concern for posterior 
brain anatomical anatomy. You underwent MRI which showed a 
similar abnormality. You were seen by neurosurgery team and they 
recommend outpatient cerebrospinal fluid flow study in a couple 
of weeks, followed by appointment with neurosurgeon, Dr. ___. 
 I have made a follow up appointment with your PCP.

**Do not take any NSAID medications -- these include commonly 
available over the counter medications like Advil, Ibuprofen, 
Alleve, Naprosyn, Aspirin, Motrin
 
Followup Instructions:
___